US05846982
5-chloro-3-(4-hydroxy-1-(tert-butoxycarbonyl)-piperidin-4-yl)benzothiophene
A solution of 1.55 mL (1.86 mMol) n-butyllithium in 5.0 mL diethyl ether was cooled to -78° C. under a nitrogen atmosphere. To this cooled solution was added a solution of 0.418 gm (1.68 mMol) 3-bromo-5-chlorobenzothiophene in 10.0 mL diethyl ether. The reaction mixture was stirred at -78° C. for 1 hour and then to it was added dropwise a solution of 0.401 gm (2.0 mMol) 1-tert-butoxycarbonyl-4-piperidone in 5.0 mL diethyl ether. The reaction was stirred an additional 2 hours at -78° C. and was then gradually warmed to -20° C. over 55 minutes. The reaction mixture was then quenched with saturated aqueous sodium bicarbonate, diluted with additional diethyl ether and the phases separated. The organic phase was washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to flash silica chromatography, eluting with toluene containing 10% ethyl acetate. Fractions shown to contain product were combined and concentrated under reduced pressure to give 0.36 gm (58.4%) of the desired compound as a colorless foam.

reactant | n-butyllithium | 1.86 mMol, 1.55 mL | C(CCC)[Li]
reactant | 3-bromo-5-chlorobenzothiophene | 1.68 mMol, 0.418 gm | BrC1=CSC2=C1C=C(C=C2)Cl | C8H4BrClS
reactant | 1-tert-butoxycarbonyl-4-piperidone | 2.0 mMol, 0.401 gm | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | diethyl ether | 5.0 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10.0 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5.0 mL | C(C)OCC | C4H10O
product | 5-chloro-3-(4-hydroxy-1-(tert-butoxycarbonyl)-piperidin-4-yl)benzothiophene | 0.36 gm, 58.4% | ClC=1C=CC2=C(C(=CS2)C2(CCN(CC2)C(=O)OC(C)(C)C)O)C1 | C18H22ClNO3S
